US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((3-(2,2,2-trifluoroethoxy)phenyl)methyl)ethyl)-4-fluoro-1-naphthalenecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(2,2,2-trifluoroethoxy)phenyl)-1-propanol (181 mg, 0.53 mmol) in acetonitrile (20 ml) were added 4-fluoronaphthalenecarboxylic acid (100 mg, 0.53 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (151 mg, 0.79 mmol) and 1-hydroxy-1H-benzotriazole (81 mg, 0.53 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, 1N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (206 mg, 76%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(2,2,2-trifluoroethoxy)phenyl)-1-propanol | 0.53 mmol, 181 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OCC(F)(F)F | C17H17F4NO2
reactant | 4-fluoronaphthalenecarboxylic acid | 0.53 mmol, 100 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.79 mmol, 151 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 0.53 mmol, 81 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((3-(2,2,2-trifluoroethoxy)phenyl)methyl)ethyl)-4-fluoro-1-naphthalenecarboxamide | 206 mg, 76% | FC1=CC=C(C=C1)C(C(CC1=CC(=CC=C1)OCC(F)(F)F)NC(=O)C1=CC=C(C2=CC=CC=C12)F)O | C28H22F5NO3
